US08748374B2
(2R,6S,14aR,16aS,Z)-2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid
To a solution of (2R,6S,14aR,16aS,Z)-ethyl 2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate in THF (62.5 grams, 16% w/w, 10 g starting material) and methanol (33 mL) at 0° C. was added 10% aq. LiOH (14.3 g, 3 equiv) keeping the temperature below 10° C. The solution was stirred at 10° C. for 22 h, then diluted with dichloromethane (150 mL). The reaction mixture was extracted with 1N HCl (100 mL) followed by water (100 mL). The solvent was changed to acetonitrile by distillation. The final acetonitrile level was approximately 70 mL. The slurry in acetonitrile was heated to 50° C. for 4 h, then allowed to cool to ambient temperature for 12 h. The slurry was filtered and the cake was washed with acetonitrile (20 mL) then dried in a vacuum at 50° C. (8.5 g, 86% pure, 77% yield of the title compound).

reactant | (2R,6S,14aR,16aS,Z)-ethyl 2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | O[C@@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/C3[C@](NC2=O)(C3)C(=O)OCC)NC(=O)C3=NOC(=C3)C)=O)C1 | C25H34N4O7
reactant | LiOH | 14.3 g, 3 equiv | [Li+].[OH-]
solvent | THF | 62.5 grams | C1CCOC1 | C4H8O
solvent | methanol | 33 mL | CO | CH4O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (2R,6S,14aR,16aS,Z)-2-hydroxy-6-(5-methylisoxazole-3-carboxamido)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | 77% yield | O[C@@H]1C[C@@H]2N(C([C@H](CCCCC\C=C/C3[C@](NC2=O)(C3)C(=O)O)NC(=O)C3=NOC(=C3)C)=O)C1 | C23H30N4O7
